* C:\dev\usc\shipsys\ltspice\notional_ship1.asc
Vgs N001 0 1.0
Rgs N002 N001 0.01
Rcb N004 N003 0.01
Rh N006 N005 1.0
Lgs N002 N003 0.01
Lcb N004 N005 0.01
Lh N006 0 0.01
Ccb_1 N003 0 0.005
Ccb_2 N005 0 0.005
.tran 1.0 uic
.backanno
.end
