* C:\dev\usc\shipsys\ltspice\transformer.asc
V§E1 N002 0 1
V§E2 N005 0 1
R1 N003 N002 1
R2 N006 N005 1
L1 N003 N004 0.01
L2 N006 N007 0.01
C3 N001 0 0.01
R3 N001 0 1
E§V1 N004 0 N001 0 {invN1}
E§V2 N007 0 N001 0 {invN2}
B§I3 N001 0 I=-I(V1)/{N1}-I(V2)/{N2}
.tran 1.0 uic
.param N1=0.1 N2=0.1
.params invN1=1/N1 invN2=1/N2
.backanno
.end
